US05496843
6) 4-tert-Butoxycarbonylaminomethyl-2-methoxycarbonylmethylaniline
A solution of methyl 5-tert-butoxycarbonylaminomethyl-2-nitrophenylacetate (6.8 g, 21 mmol) in methanol (250 mL) in the presence of 10% Pd/C was hydrogenated under atmospheric pressure of hydrogen at room temperature. The catalyst was removed by filtration through celite and the filtrate was concentrated to give 5.8 g of the title compound: 1H NMR (CDCl3) δ 7.02 (d, 1H, J=7.6 Hz), 7.00 (s, 1H), 6.67 (d, 1H, J=7.6 Hz), 4.72 (br, 1H), 4.18 (d, 2H, J=5.7 Hz), 4.05 (br, 2H), 3.55 (s, 2H), 1.46 (s, 9H).

reactant | methyl 5-tert-butoxycarbonylaminomethyl-2-nitrophenylacetate | 21 mmol, 6.8 g | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C1)CC(=O)OC)[N+](=O)[O-] | C15H20N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-tert-Butoxycarbonylaminomethyl-2-methoxycarbonylmethylaniline | 5.8 g | C(C)(C)(C)OC(=O)NCC1=CC(=C(N)C=C1)CC(=O)OC | C15H22N2O4
